US06949579B2
(2E) N-[5-(trifluoromethyl)-1H-indazol-3-yl]-2-butenamide
0.24 cm3 of crotonyl chloride is added to 500 mg of 5-(trifluoromethyl)-1H-indazole-3-amine, prepared according to patent U.S. Pat. No. 3,133,081, in 15 cm3 of pyridine. The reaction medium is stirred at about 19° C. for 12 hours and then evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 25 cm3 of tetrahydrofuran, 25 cm3 of ethyl acetate and 25 cm3 of distilled water. The organic phase is washed again with 25 cm3 of distilled water. The organic phase is dried over magnesium sulphate, filtered through a sinter funnel and then evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (40/60 by volume) and collecting 25 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 45° C.), 63 mg of N-[5-(trifluoromethyl)-1H-indazol-3-yl]-2-butenamide (E form) are obtained in the form of an off-white solid melting at about 242° C.

reactant | crotonyl chloride | 0.24 cm3 | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | 5-(trifluoromethyl)-1H-indazole-3-amine | 500 mg | FC(C=1C=C2C(=NNC2=CC1)N)(F)F | C8H6F3N3
solvent | pyridine | 15 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[5-(trifluoromethyl)-1H-indazol-3-yl]-2-butenamide | FC(C=1C=C2C(=NNC2=CC1)NC(C=CC)=O)(F)F | C12H10F3N3O
